US06008229
To a mixture of 4-acetamido-3-methoxybenzyl alcohol (800 mg), triethylamine (2.07 g), dimethylsulfoxide (5 ml) and dichloromethane (2.5 ml) was added portionwise sulfur trioxide pyridine complex (1.3 g) in water bath, and the mixture was stirred for 2 hours at the same temperature. The reaction mixture was poured into water, and extracted with dichloromethane. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated in vacuo to give 4-acetamido-3-methoxybenzaldehyde (653 mg).

reactant | 4-acetamido-3-methoxybenzyl alcohol | 800 mg | C(C)(=O)NC1=C(C=C(CO)C=C1)OC | C10H13NO3
reactant | triethylamine | 2.07 g | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
reactant | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-acetamido-3-methoxybenzaldehyde | 653 mg | C(C)(=O)NC1=C(C=C(C=O)C=C1)OC | C10H11NO3
